US05804532
Concentrated sulphuric acid (20 ml) was added to a suspension of 2-chloro-4-(N-methylsulphonylamino)benzoic acid (10.3 g) in methanol and the mixture was stirred and heated at reflux for 22 hours. It was cooled, evaporated to dryness and diluted with water, extracted with ethyl acetate, washed with aqueous sodium bicarbonate solution, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give methyl 2-chloro-4(N-methylsulphonylamino)benzoate(10.0 g) as an off-white solid, NMR (DMSO-d6) 3.15(s,3H) 3.85(s,3H) 7.2(d,1H) 7.3(s,1H) 7.85(d,1H) 10.5(s,1H).

reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-4-(N-methylsulphonylamino)benzoic acid | 10.3 g | ClC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C8H8ClNO4S
reactant | methanol | CO | CH4O
product | methyl 2-chloro-4(N-methylsulphonylamino)benzoate | 10.0 g | ClC1=C(C(=O)OC)C=CC(=C1)NS(=O)(=O)C | C9H10ClNO4S
